US04711895
113 mg (0.27 mmole) of (4R)-5-[(E)-6-methoxycarbonylhexylidene)-4-octyl-4-trimethylsilyloxy-2-cyclopentenone was dissolved in 20 ml of tetrahydrofuran, and at 0° C., 1 ml (1 mmole) of n-Bu4NF (1 M in THF) was added. The mixture was stirred for 15 minutes. Ether and a saturated aqueous solution of sodium chloride were added. The aqueous layer was extracted with ethyl acetate. After filtration and concentration, the residue was subjected to TLC (n-hexane:AcOEt=1:1) to obtain 31 mg (33%) of (4R)-5-[(E)-6-methoxycarbonylhexylidene)-4-hydroxy-4-octyl-2-cyclopentenone.

reactant | (4R)-5-[(E)-6-methoxycarbonylhexylidene)-4-octyl-4-trimethylsilyloxy-2-cyclopentenone | 0.27 mmole, 113 mg | COC(=O)CCCCC\C=C\1/[C@@](C=CC1=O)(O[Si](C)(C)C)CCCCCCCC | C24H42O4Si
reactant | n-Bu4NF | 1 mmole, 1 M, 1 ml | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | Ether | CCOCC | C4H10O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4R)-5-[(E)-6-methoxycarbonylhexylidene)-4-hydroxy-4-octyl-2-cyclopentenone | 31 mg, 33% | COC(=O)CCCCC\C=C\1/[C@](C=CC1=O)(CCCCCCCC)O | C21H34O4
